** sch_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_GR03_SKY130A/BANDGAP_OTA.sch
**.subckt BANDGAP_OTA IN- OUT IN+ VSS PWRUP_N_1V8 VDD
*.ipin IN-
*.opin OUT
*.ipin IN+
*.ipin VSS
*.ipin PWRUP_N_1V8
*.ipin VDD
x18<1> VB_P IN- VTAIL VSS LELOATR_LVT_NCH_4C5F0
x18<0> VB_P IN- VTAIL VSS LELOATR_LVT_NCH_4C5F0
x19<1> V2 IN+ VTAIL VSS LELOATR_LVT_NCH_4C5F0
x19<0> V2 IN+ VTAIL VSS LELOATR_LVT_NCH_4C5F0
x2<0> VTAIL V_IB VSS VSS JNWATR_NCH_4C5F0
x20<1> V2 VB_P SUPPLY SUPPLY JNWATR_PCH_4C5F0
x20<0> V2 VB_P SUPPLY SUPPLY JNWATR_PCH_4C5F0
x21<1> VB_P VB_P SUPPLY SUPPLY JNWATR_PCH_4C5F0
x21<0> VB_P VB_P SUPPLY SUPPLY JNWATR_PCH_4C5F0
x3<0> OUT V2 SUPPLY SUPPLY JNWATR_PCH_4C5F0
x4 V_IB V_IB VSS VSS JNWATR_NCH_4C5F0
x6 OUT V_IB VSS VSS JNWATR_NCH_4C5F0
x1_4 net3 SUPPLY VSS JNWTR_RPPO16
x2 net2 OUT net1 VSS JNWATR_NCH_4C5F0
x3 net1 net1 VSS VSS JNWATR_NCH_4C5F0
x5 net2 net2 SUPPLY SUPPLY JNWATR_PCH_4C5F0
x7 OUT net2 SUPPLY SUPPLY JNWATR_PCH_4C5F0
x8 OUT OUT VSS VSS JNWATR_NCH_4C5F0
x10 SUPPLY PWRUP_N_1V8 VDD net4 JNWATR_PCH_4C5F0
x1_3 net5 net3 VSS JNWTR_RPPO16
x1_2 net6 net5 VSS JNWTR_RPPO16
x1_1 net7 net6 VSS JNWTR_RPPO16
x1_0 V_IB net7 VSS JNWTR_RPPO16
**.ends

* expanding   symbol:  LELO_ATR_SKY130Aa/LELOATR_LVT_NCH_4C5F0.sym # of pins=4
** sym_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_ATR_SKY130Aa/LELOATR_LVT_NCH_4C5F0.sym
** sch_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/LELO_ATR_SKY130Aa/LELOATR_LVT_NCH_4C5F0.sch
.subckt LELOATR_LVT_NCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__nfet_01v8_lvt L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sym # of pins=4
** sym_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sym
** sch_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sch
.subckt JNWATR_NCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__nfet_01v8 L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sym # of pins=4
** sym_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sym
** sch_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sch
.subckt JNWATR_PCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8 L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO16.sym # of pins=3
** sym_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO16.sym
** sch_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO16.sch
.subckt JNWTR_RPPO16 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES16
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES16.sym # of pins=3
** sym_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES16.sym
** sch_path: /home/kim/pro/aicex/ip/lelo_gr03_sky130a/design/JNW_TR_SKY130A/JNWTR_RES16.sch
.subckt JNWTR_RES16 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 INT_3 INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_4 INT_4 INT_3 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_5 INT_5 INT_4 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_6 INT_6 INT_5 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_7 INT_7 INT_6 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_8 INT_8 INT_7 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_9 INT_9 INT_8 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_10 INT_10 INT_9 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_11 INT_11 INT_10 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_12 INT_12 INT_11 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_13 INT_13 INT_12 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_14 INT_14 INT_13 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_15 P INT_14 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends

.end
